US07157447B2
N-(4-Fluoro-2-(1,2,3-thiadiazol-4-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and (4-fluoro-2-(1,2,3-thiadiazol-4-yl)phenyl)methanamine. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.66 (6H, s, 2×CH3), 4.02 (4H, m, 2×CH2), 4.57 (2H, d, J=6.6 Hz, NCH2), 5.32 (2H, s, OCH2), 7.18 (1H, m, aromatic), 7.27–7.34 (4H, m, aromatics), 7.54 (2H, m, aromatics), 7.74 (1H, dd, J=6.2 Hz and J=8.6 Hz, aromatic), 8.71 (1H, s, CH), 8.80 (1H, broad t, NH). HRMS (ESI+) calculated for C26H25FN5O4S [M+H+]: 522.1611. found: 522.1601.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | (4-fluoro-2-(1,2,3-thiadiazol-4-yl)phenyl)methanamine | FC1=CC(=C(C=C1)CN)C=1N=NSC1 | C9H8FN3S
product | N-(4-Fluoro-2-(1,2,3-thiadiazol-4-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C=1N=NSC1 | C26H24FN5O4S
